* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT potentiometer 1 2 3
.param R=2M w=0.5
R0 1 3 {R*(1-w)}
R1 3 2 {R*(w)}
.ENDS
