* ascii art credit 
* https://electronics.stackexchange.com/questions/229545/is-there-a-potentiometer-model-for-ltspice
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT potentiometer 1 2 3 PARAMS: R=2M w=0.5
R0 1 3 {R*(1-w)}
R1 3 2 {R*(w)}
.ENDS
